US06191146B1
Preparation of N,N′-bis(picolinoyl)-1,3-xylylenediamine
To a stirred solution of 1,3-xylylenediamine (132 uL, 1.00 mmol) in DMF (10 mL) was sequentially added IPr2NEt (1.75 mL, 10.0 mmol), HOBt (405 mg, 3.00 mmol), picolinic acid (370 mg, 3.00 mmol) and BOP reagent (1.33 g, 3.00 mmol). After 18 h at room temperature, the reaction mixture was added to a rapidly-stirred mixture of EtOAc (50 mL), H2O (50 mL), and sat'd NaCl (50 mL). After stirring for ca 1 h, the phases were separated and the aqueous layer was extracted with EtOAc (50 mL). The combined organic layers were dried over MgSO4, filtered, and concentrated in vacuo to a brown oil. Purification by flash chromatography (silica gel, EtOAc) afforded 359 mg of the desired product as a white solid. MS (ES+) m/z 347.2 [M+H]+.

reactant | 1,3-xylylenediamine | 1.00 mmol, 132 uL | C1(=CC(=CC=C1)CN)CN | C8H12N2
reactant | HOBt | 3.00 mmol, 405 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | picolinic acid | 3.00 mmol, 370 mg | N1=C(C=CC=C1)C(=O)O | C6H5NO2
reactant | BOP reagent | 3.00 mmol, 1.33 g | CN(C)[P+](N(C)C)(N(C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | NaCl | 50 mL | [Na+].[Cl-]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | H2O | 50 mL | O | H2O
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | N,N′-bis(picolinoyl)-1,3-xylylenediamine | 359 mg | N1=C(C=CC=C1)C(=O)NCC1=CC(=CC=C1)CNC(C1=NC=CC=C1)=O | C20H18N4O2
